US07371763B2
4-(2-Pyridinylthio)aniline:
4-(3-Thienylthio)aniline: 4-(3-Thienylthio)-1-nitrobenzene was reduced to the aniline in a manner analogous to that described in Method A1. A3j. General Method for Substituted Aniline Formation Via Nitroarene Formation Through Nucleophilic Aromatic Substitution, Followed by Reduction

reactant | 4-(3-Thienylthio)aniline | S1C=C(C=C1)SC1=CC=C(N)C=C1 | C10H9NS2
reactant | 4-(3-Thienylthio)-1-nitrobenzene | S1C=C(C=C1)SC1=CC=C(C=C1)[N+](=O)[O-] | C10H7NO2S2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-(2-Pyridinylthio)aniline | N1=C(C=CC=C1)SC1=CC=C(N)C=C1 | C11H10N2S
